US08003659B2
Step C: Synthesis of ethyl 4-(trifluoromethyl)phenylphosphinate AZ1.
To a degassed solution of 4-iodobenzotrifluoride (4.70 g, 17.2 mmol), anilinium hypophosphite (3.51 g, 22.1 mmol), and 3-aminopropyl triethoxysilane (4.88 g, 22.1 mmol) in anhydrous acetonitrile (110 mL) were added palladium acetate (82.5 mg, 0.367 mmol, 2 mol %) and 1,3-bis(diphenylphosphino)propane (167 mg, 0.404 mol, 2.2 mol %). The mixture was heated under reflux for 32 hrs, then cooled down to room temperature, diluted with ethyl acetate and hydrochloric acid (1 M) and partitioned. The aqueous layer was further extracted with ethyl acetate, and the combined extracts were washed with aqueous sodium hydrogen carbonate and brine and dried over magnesium sulfate. The solvent was removed in vacuo and the residue was purified by column chromatography using 25 to 100% ethyl acetate in petroleum ether. Further purification by distillation afforded compound AZ1 (1.14 g) in 28% yield.

reactant | 4-iodobenzotrifluoride | 17.2 mmol, 4.70 g | IC1=CC=C(C=C1)C(F)(F)F | C7H4F3I
reactant | anilinium hypophosphite | 22.1 mmol, 3.51 g | [PH2](=O)[O-].[NH3+]C1=CC=CC=C1
reactant | 3-aminopropyl triethoxysilane | 22.1 mmol, 4.88 g | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
reactant | 1,3-bis(diphenylphosphino)propane | 0.404 mol, 167 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | acetonitrile | 110 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 1 M | Cl | ClH
catalyst | palladium acetate | 0.367 mmol, 82.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl 4-(trifluoromethyl)phenylphosphinate | 28% yield | FC(C1=CC=C(C=C1)P(OCC)=O)(F)F | C9H10F3O2P
